US05607956
3-Bromothiophene (4.23 g) in diethylether (10 ml) was added dropwise to n-butyllithium (2.5M solution in hexane, 10.4 ml) in dry diethylether (20 ml) at -70° C. under a nitrogen atmosphere. After 3 hours 5-acetyl-4-methyloxazole (2.5 g) in diethylether (10 ml) was added dropwise. After a further 2.5 hours at -70° C., the mixture was allowed to warm to room temperature and then left overnight. The mixture was poured into water and extracted with ether. The product thus obtained was crystallised from diethylether to give 1-(4-methyl-5-oxazolyl)-1-(3-thienyl)ethanol, m.p. 87°-89° C.

reactant | 3-Bromothiophene | 4.23 g | BrC1=CSC=C1 | C4H3BrS
reactant | n-butyllithium | 2.5M, 10.4 ml | C(CCC)[Li]
reactant | 5-acetyl-4-methyloxazole | 2.5 g | C(C)(=O)C1=C(N=CO1)C | C6H7NO2
reactant | water | O | H2O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
product | 1-(4-methyl-5-oxazolyl)-1-(3-thienyl)ethanol | CC=1N=COC1C(C)(O)C1=CSC=C1 | C10H11NO2S
